US05455253
4-(4-Chlorophenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone.
4-(4-Chlorophenyl)-3-butene-2-one (2.83 g), 1.3-cyclohexanedione (1.81 g), and ammonium acetate (2.60 g) were combined in ethanol (125 mL) and heated at reflux for 5.5 h. The solvent was evaporated, and the residue was taken up in water and extracted with ethyl acetate. The combined organic extracts were washed (water, brine), dried, and evaporated to yield a residue which was chromatographed, eluting with hexane:ethyl acetate (1:1) to yield the title compound as a pale yellow solid (1.46 g); mp 184°-187° C.; MS: 273 (M); NMR: 1.73 (s,3, CH3), 1.75-1.98 (m,2, CH2), 2.15 (m,2, CH2), 2.43 (t,2, J=6.0, CH2), 4.39 (d,1, J=4.7, CH), 4.58 (d,1,J=4.8, CH), 7.14 (d,2, J=8.4, Ar), 7.26 (d,2, J=8.4, Ar), 8.48 (s,1, NH); Analysis for C16H16ClNO: Calculated C, 70.20; H, 5.89; N, 5.12; Found: C, 70.21; H, 5.67; N, 5.02.

reactant | 4-(4-Chlorophenyl)-3-butene-2-one | 2.83 g | ClC1=CC=C(C=C1)C=CC(C)=O | C10H9ClO
reactant | 1.3-cyclohexanedione | 1.81 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 2.60 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 125 mL | C(C)O | C2H6O
product | 4-(4-Chlorophenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone | 1.46 g | ClC1=CC=C(C=C1)C1C=C(NC=2CCCC(C12)=O)C | C16H16ClNO
